US07696216B2
B. Synthesis of (3-methanesulphonyl-phenyl)-methanol
NaBH is added to a solution of 750 mg (4.08 mmol) 3-methanesulphonyl-benzaldehyde in 20 ml ethanol (see P. L. Ornstein, T. J. Bleisch, M. B. Arnold, R. A. Wright, B. G. Johnson, J. P. Tizzano, D. R. Helton, M. J. Kallman, D. D. Schoepp, M. Herin, J. Med. Chem. 1998, 41(3), 358-378 or B. Eistert, W. Schade, H. Selzer, Ber. 1964, 97(5), 1470-81). The reaction mixture is stirred at room temperature for 1 h. The reaction mixture is poured into water and extracted three times with ethyl acetate. The combined organic layers are washed with water and brine, dried, filtered and concentrated in vacuo to afford the title compound, used in the next step without further purification.

reactant | 3-methanesulphonyl-benzaldehyde | 4.08 mmol, 750 mg | CS(=O)(=O)C=1C=C(C=O)C=CC1 | C8H8O3S
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (3-methanesulphonyl-phenyl)-methanol | CS(=O)(=O)C=1C=C(C=CC1)CO | C8H10O3S
